US08614206B2
To a solution of 8-(2-methyl-4-nitro-pyrazol-3-yl)-1,4-dioxaspiro[4.5]decan-8-ol (3.68 g, 13.0 mmol) in dry DCM (80 mL) under nitrogen was added dropwise a solution of deoxo-Fluor® (50% in THF, 14.1 mL, 39.0 mmol). The reaction mixture was stirred at room temperature for 1 hr. After cooling to 0° C., saturated aqueous NaHCO3 (100 mL) was added, dropwise initially, and the mixture was extracted with DCM (2×75 mL). The combined organic layers were dried over MgSO4, and concentrated under reduced pressure. Purification via silica gel column chromatography (30-50% EtOAc/isohexane) gave a pale yellow oil. A portion of this oil (780 mg, 2.74 mmol) was dissolved in THF (20 mL) and treated with 2 M aqueous HCl (3 mL). The reaction mixture was stirred at room temperature for 4 hr, heated at 60° C. for 7 hr and stirred at room temperature for 18 hr. Water (10 mL) was added and the mixture extracted with EtOAc (100 mL). The organic layer was washed with brine (20 mL), separated, dried over MgSO4 and concentrated under reduced pressure. Purification via silica gel column chromatography (25-40% EtOAc/isohexane) gave 4-fluoro-4-(2-methyl-4-nitro-pyrazol-3-yl)cyclohexanone as a white solid (490 mg, 30% over two steps). 1H NMR (400 MHz, CDCl3) δ 8.10 and 8.09 (2s, 1H), 4.17 and 4.15 (2s, 3H), 3.16-2.94 (m, 2H), 2.84-2.72 (m, 2H), 2.51 (dd, J=15.4, 5.6 Hz, 2H), 2.43-2.33 (m, 2H).

reactant | 8-(2-methyl-4-nitro-pyrazol-3-yl)-1,4-dioxaspiro[4.5]decan-8-ol | 13.0 mmol, 3.68 g | CN1N=CC(=C1C1(CCC2(OCCO2)CC1)O)[N+](=O)[O-] | C12H17N3O5
reactant | deoxo-Fluor | COCCN(CCOC)S(F)(F)F | C6H14F3NO2S
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
reactant | HCl | 2 M, 3 mL | Cl | ClH
solvent | DCM | 80 mL | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | Water | 10 mL | O | H2O
product | 4-fluoro-4-(2-methyl-4-nitro-pyrazol-3-yl)cyclohexanone | FC1(CCC(CC1)=O)C=1N(N=CC1[N+](=O)[O-])C | C10H12FN3O3
